US07737136B2
Sodium hydride (1.6 mg, 60% in oil) was added to trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (15 mg, 0.04 mmol) in 1 mL of DMF. After 10 minutes stirring methyl iodide (2.47 μL, 0.04 mmol) was added. The resulting mixture was stirred at room temperature for 18 h. After evaporation the crude compound was purified by chromatography on silica. Elution with toluene/ethyl acetate 7:3 gave trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoro-N-methylacetamide (14 mg, 90%). Data: (m/z)=411 (M+H)+.

reactant | Sodium hydride | 1.6 mg | [H-].[Na+]
reactant | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 0.04 mmol, 15 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H16ClF3N2O2
reactant | methyl iodide | 0.04 mmol, 2.47 μL | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoro-N-methylacetamide | 14 mg, 90% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N(C(C(F)(F)F)=O)C)C=CC=C3)C=C1 | C20H18ClF3N2O2
